US09145415B2
To a solution of 2-(5-(2-chloro-4-methyl-6-(propylamino)pyrimidin-5-yl)-4-pentyn-1-yl)isoindoline-1,3-dione (T3, 65 mg) in 1,4-dioxane (3 mL), 4-aminobenzonitrile (29 mg), cesium carbonate (133 mg), tris(dibenzylideneacetone)dipalladium(0) (30 mg) and 4,5′-bis(diphenylphosphino)-9,9′-dimethylxanthene (38 mg) were added at room temperature, the reaction vessel was sealed, and then by using a microwave reaction system, the mixture was stirred at 160° C. for 20 minutes. The reaction mixture was cooled to room temperature, and then ethyl acetate was added to the reaction mixture. The insoluble matter was removed by filtration through Cerite, and then the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography (eluent, 90 to 50% hexane in ethyl acetate) to obtain 4-((5-(5-(1,3-dioxoisoindolin-2-yl)-1-pentyn-1-yl)-4-methyl-6-(propylamino)pyrimidin-2-yl)amino)benzonitrile (T4, 72 mg) as pale yellow solid.

reactant | 2-(5-(2-chloro-4-methyl-6-(propylamino)pyrimidin-5-yl)-4-pentyn-1-yl)isoindoline-1,3-dione | 65 mg | ClC1=NC(=C(C(=N1)C)C#CCCCN1C(C2=CC=CC=C2C1=O)=O)NCCC | C21H21ClN4O2
reactant | 4-aminobenzonitrile | 29 mg | NC1=CC=C(C#N)C=C1 | C7H6N2
reactant | cesium carbonate | 133 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | 1,4-dioxane | 3 mL | O1CCOCC1 | C4H8O2
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 30 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 4-((5-(5-(1,3-dioxoisoindolin-2-yl)-1-pentyn-1-yl)-4-methyl-6-(propylamino)pyrimidin-2-yl)amino)benzonitrile | 72 mg | O=C1N(C(C2=CC=CC=C12)=O)CCCC#CC=1C(=NC(=NC1NCCC)NC1=CC=C(C#N)C=C1)C | C28H26N6O2
